US04751227
In 10 ml of N,N-dimethylformamide, 0.3 g of 1,2-dihydro-5-(imidazo[1,2-a]pyridin-6-yl)-6-methyl-2-oxo-3-pyridinecarbonitrile was stirred together with 0.19 g of N-chlorosuccinimide at 60° to 80° C. for 2 hours. After cooling, the solvent was removed by distillation under reduced pressure and water was added to the residue to take the solid by filtration. The solid was recrystallized from large quantities of methanol to obtain 0.1 g of 5-(3-chloroimidazo[1,2-a]pyridin-6-yl)-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile.

reactant | 1,2-dihydro-5-(imidazo[1,2-a]pyridin-6-yl)-6-methyl-2-oxo-3-pyridinecarbonitrile | 0.3 g | N=1C=CN2C1C=CC(=C2)C=2C=C(C(NC2C)=O)C#N | C14H10N4O
reactant | N-chlorosuccinimide | 0.19 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(3-chloroimidazo[1,2-a]pyridin-6-yl)-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile | 0.1 g | ClC1=CN=C2N1C=C(C=C2)C=2C=C(C(NC2C)=O)C#N | C14H9ClN4O
